US08110581B2
(5S)-7-(2-Fluoro-4-pyrrolidin-1-ylphenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one
A mixture of 1,4-diiodobutane (13.5 μL, 0.000100 mol), (5S)-7-(4-amino-2-fluorophenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one (28.9 mg, 0.0000800 mol, this compound was prepared by using procedures analogous to that described for the synthesis of example 105, step 1 starting from (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one) and 4-dimethylaminopyridine (14.7 mg, 0.000120 mol) in DMF (1.00 mL), and potassium iodide (1.5 mg, 0.0000090 mol) was heated at 110° C. by microwave for 15 min. The mixture was diluted with methanol (0.8 mL) and was adjusted to be acidic with TFA (the pH was about 2.0). The resulting solution was purified by prep-HPLC to give the desired product. LC-MS: 416.2 (M+H)+.

reactant | 1,4-diiodobutane | 0.000100 mol, 13.5 μL | ICCCCI | C4H8I2
reactant | (5S)-7-(4-amino-2-fluorophenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | NC1=CC(=C(C=C1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1)F | C20H28FN3O2
reactant | (5S)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | O[C@@H]1CC[C@H](CC1)N1C([C@@]2(CC1)CNCCC2)=O | C14H24N2O2
reactant | potassium iodide | 0.0000090 mol, 1.5 mg | [I-].[K+]
reactant | TFA | C(=O)(C(F)(F)F)O | C2HF3O2
catalyst | 4-dimethylaminopyridine | 0.000120 mol, 14.7 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 1.00 mL | CN(C)C=O | C3H7NO
solvent | methanol | 0.8 mL | CO | CH4O
product | (5S)-7-(2-Fluoro-4-pyrrolidin-1-ylphenyl)-2-(trans-4-hydroxycyclohexyl)-2,7-diazaspiro[4.5]decan-1-one | FC1=C(C=CC(=C1)N1CCCC1)N1C[C@@]2(CCN(C2=O)[C@@H]2CC[C@H](CC2)O)CCC1 | C24H34FN3O2
